US05232922
5-Chloro-1-methyl-4-imidazolesulfonic acid
33 g (0.28 mol) of 5-chloro-1-methylimidazole in 200 ml of fuming sulfuric acid are heated at 160°-180° C. for 4 hours. After cooling, the reaction mixture is cautiously added to ice. The product crystallizes out from the cold aqueous solution (about 1.5 l). After recrystallizing twice from water, the title compound is obtained in the form of coarse yellowish crystals of melting point 309°-310° C.

reactant | 5-chloro-1-methylimidazole | 0.28 mol, 33 g | ClC1=CN=CN1C | C4H5ClN2
reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Chloro-1-methyl-4-imidazolesulfonic acid | ClC1=C(N=CN1C)S(=O)(=O)O | C4H5ClN2O3S
